US05847184
Preparation of diphenylphosphinylmethylsuccinic acid
303 g (1.5 mol) of diphenylphosphine oxide, 214.5 g (1.65 mol) of itaconic acid and 470 g of propionic acid are refluxed under a nitrogen atmosphere for 8.5 hours with lively stirring. The mixture is then cooled. After crystallization, an additional 500 g of propionic acid are added, the product is filtered off with suction, washed and dried. This gives 390 g of product having a melting point of from 169° to 172° C. and a purity of 98.8% (determined by means of the 31P-NMR spectrum). A further 30 g of desired product are isolated from the filtrate. The total yield is 84% of theory, based on diphenylphosphine oxide used.

reactant | diphenylphosphine oxide | 1.5 mol, 303 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)=O | C12H11OP
reactant | itaconic acid | 1.65 mol, 214.5 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
reactant | propionic acid | 470 g | C(CC)(=O)O | C3H6O2
product | diphenylphosphinylmethylsuccinic acid | 30 g, yield is 84% | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)CC(C(=O)O)CC(=O)O | C17H17O5P
